US07714000B2
(c) 3-methyl-4-(pyrrolidine-1-sulphonyl)-phenylamine
0.6 g of N-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-acetamide (2.13 mmol) are dissolved in 5 ml of ethanol and then 10 ml hydrochloric acid (6 N) are added thereto at ambient temperature. The mixture is stirred overnight at ambient temperature and then extracted three times with dichloromethane. The combined organic phases are washed successively with 5% sodium hydrogen carbonate solution and water. The aqueous phase is re-extracted with dichloromethane and combined with the dichloromethane phase already present, dried over sodium sulphate and evaporated down. A yellow oil is obtained which slowly crystallises out.

reactant | N-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-acetamide | 2.13 mmol, 0.6 g | CC=1C=C(C=CC1S(=O)(=O)N1CCCC1)NC(C)=O | C13H18N2O3S
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-methyl-4-(pyrrolidine-1-sulphonyl)-phenylamine | CC=1C=C(C=CC1S(=O)(=O)N1CCCC1)N | C11H16N2O2S
